US05281593
vi) 7-(Cyanomethoxy)indole
A solution of 7-benzyloxyindole (0.5 g, 2.24 mmol) in methanol (100 ml) was hydrogenated at 60 psi over 10% palladium on charcoal (50 mg) for 4 hours. The catalyst was filtered off and the filtrate was evaporated. A stirred solution of the residue and bromoacetonitrile (0.16 ml, 2.3 mmol) in methyl ethyl ketone (5 ml) was heated under reflux with solid anhydrous potassium carbonate (0.62 g, 4.5 mmol) for 2 hours, cooled, poured onto ice-hydrochloric acid and extracted with dichloromethane. The extract was dried and evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:2) to give a pale solid.

reactant | 7-benzyloxyindole | 2.24 mmol, 0.5 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | bromoacetonitrile | 2.3 mmol, 0.16 ml | BrCC#N | C2H2BrN
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | 7-(Cyanomethoxy)indole | C(#N)COC=1C=CC=C2C=CNC12 | C10H8N2O
